US09422244B2
0.50 g (1 mol equiv.) 8-Oxa-2,3-diaza-spiro[4.5]dec-3-ene-2-carbothioic acid methylamide was dissolved in 10 mL methanol; 1.2 mL (10 mol equiv.) iodomethane was added and the reaction mixture was heated at 50° C. for 5 hours. Volatiles were removed under reduced pressure, and the residue was taken up in DCM and extracted with 5% aqueous NaHCO3. The organic layer was washed twice with water, dried over Na2SO4, filtered and evaporated to dryness to yield 0.43 g (99%) N-methyl-8-oxa-2,3-diaza-spiro[4.5]dec-3-ene-2-carboximidothioic acid methyl ester. 1H NMR (400 MHz, CDCl3) δ 1.53-1.60 (m, 2H), 1.80-1.88 (m, 2H), 2.47 (s, 3H), 3.26 (s, 3H), 3.56-3.64 (m, 2H), 3.68 (s, 2H), 3.83-3.89 (m, 2H), 6.73 (s, 1H).

reactant | 8-Oxa-2,3-diaza-spiro[4.5]dec-3-ene-2-carbothioic acid methylamide | 1 mol, 0.50 g | CNC(=S)N1CC2(C=N1)CCOCC2 | C9H15N3OS
reactant | iodomethane | 10 mol, 1.2 mL | IC | CH3I
solvent | methanol | 10 mL | CO | CH4O
product | N-methyl-8-oxa-2,3-diaza-spiro[4.5]dec-3-ene-2-carboximidothioic acid methyl ester | 0.43 g, 99% | CSC(=NC)N1CC2(C=N1)CCOCC2 | C10H17N3OS
